US04025528
Thiazole derivative IIb can be prepared according to any of a variety of methods. Ester of 2-amino-4- and 5-thiazolecarboxylic acids can be prepared by any method described in "Heterocyclic Compound", Elderfield, 5, 624. For example, reaction of bromopyruvic acid with thiourea gives 2-amino-4-thiazolecarboxylic acid (J. Am. Chem. Soc. 68, 266 (1946)) which is subjected to the Gattermann reaction to give 2-halogeno derivatives. Ester of 2-halogeno-5-methyl-4-thiazolecarboxylic acid can be obtained from 2-chloro-2,3-epoxybutyric acid ester with thiourea (Bull. Chem. Soc. Jap. 43, 2997 (1970)). Ethyl 2-halogeno-4-methyl-5-thiazolecarboxylate can be prepared from ethyl α-chloroacetoacetate with thiourea (J. Pharm. Soc. Jap., 76, 301 (1956)). These compounds are subjected to the Arndt-Eistert reaction with diazomethane or diazoethane or alkylation to give the corresponding acetic or propionic acid. Further, ethyl 2-chloro-4-methyl-5-thiazolecarboxylate can be prepared from ethyl 3-thiocyano-3-acetoxypropionate according to the method shown in U.S. Pat. No. 2,319,570. Ethyl 2-(2-bromo-4-thiazolyl)propionate is also prepared from ethyl 2-bromo-acetylpropionate with thiourea (J. Am. Chem. Soc. 63, 2946 (1941)). Thiazole derivative IIb substituted with an alkyl group other than methyl can be prepared by condensation following the method described above or alkylation of the thiazole derivatives prepared above.

reactant | Thiazole | S1C=NC=C1 | C3H3NS
reactant | bromopyruvic acid | BrCC(C(=O)O)=O | C3H3BrO3
reactant | thiourea | NC(=S)N | CH4N2S
product | 2-amino-4-thiazolecarboxylic acid | NC=1SC=C(N1)C(=O)O | C4H4N2O2S
